US06265411B1
A solution of 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-3,4-dihydroquinazolin-4-one (930 mg, 3.16 mmol) in thionyl chloride (15 ml) and DMF (150 μl) was heated at 60° C. for 1.5 hours. The mixture was allowed to cool and the volatiles were removed by evaporation and by azeotroping with toluene. The residue was dissolved in methylene chloride and 5% aqueous sodium hydrogen carbonate solution was added until the aqueous layer was at pH8. The organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by flash chromatography eluting with ethyl acetate to give 4-chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline (863 mg, 87%).

reactant | 6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)-3,4-dihydroquinazolin-4-one | 3.16 mmol, 930 mg | COC=1C=C2C(NC=NC2=CC1OCCOCCOC)=O | C14H18N2O5
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 150 μl | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(2-(2-methoxyethoxy)ethoxy)quinazoline | 863 mg, 87% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOCCOC | C14H17ClN2O4
